US05541287
(S)-2-(p-nitrobenzyl)-1,4,7,10-tetraazacyclododecane.
Borane-pyridine (available from Aldrich) is added to a suspension of 2-(4-nitrobenzyl)-3,6,9,12-tetraoxo-1,4,7,10-tetraazacyclododecane in pyridine. The mixture is heated under reflux at 120° C. for 14 hours. The solvent is removed under reduced pressure. The residue is taken up in methanol and heated under reflux for 2 hours. The solvent is removed under reduced pressure. The residue is dissolved in methanol and re-evaporated. The solid residue is purified by chromatography on reverse phase Baker G18 silica gel available from J. T. Baker, Inc., Phillipsburg, N.J. Conversion of this product to nitro-benzyl-DOTA is accomplished via the procedure discussed in Rennet al., Bioconj. Chem., 3:563-569, 1992 or as set forth is subpart A above.

reactant | Borane-pyridine | N1=CC=CC=C1.B
reactant | 2-(4-nitrobenzyl)-3,6,9,12-tetraoxo-1,4,7,10-tetraazacyclododecane | [N+](=O)([O-])C1=CC=C(CC2NC(CNC(CNC(CNC2=O)=O)=O)=O)C=C1 | C15H17N5O6
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (S)-2-(p-nitrobenzyl)-1,4,7,10-tetraazacyclododecane | [N+](=O)([O-])C1=CC=C(C[C@@H]2NCCNCCNCCNC2)C=C1 | C15H25N5O2
